US04375475
Preparation of Trans-6-[2-(2,4-Dichloro-6-phenylmethoxyphenyl)ethyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one
A solution of trans-(E)-6-[2-(2,4-dichloro-6-phenylmethoxyphenyl)ethenyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one (1.1 g, 28 mmole) in tetrahydrofuran (50 ml) was magnetically stirred and hydrogenated at room temperature and atmospheric pressure in the presence of 110 mg of 5% rhodium on carbon catalyst until 1.5 molar equivalents of hydrogen had been consumed. After removing the catalyst by filtration, the filtrate was evaporated in vacuo leaving the title compound as a pale yellow oil. The oil was chromatographed on a silica gel column (200 g). Elution with acetone-methylene chloride (1:9, v:v; 560 ml) provided a forerun which was discarded. Continued elution with the same eluant (240 ml) gave the title compound as a colorless oil which solidified when it was triturated with ether. The title compound was purified by recrystallization from ether-hexane (1:1, v:v; 20 ml) to give colorless needles (0.67 g, 61%) melting at 99°-101° C.: pmr (CDCl3) δ1.83 (4 H, m), 2.60 (2H, m), 2.90 (2H, m), 4.30 (H, m), 4.62 (H, m), 5.05 (2H, s), 7.42 (5H, s).

reactant | trans-(E)-6-[2-(2,4-dichloro-6-phenylmethoxyphenyl)ethenyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one | 28 mmole, 1.1 g | ClC1=C(C(=CC(=C1)Cl)OCC1=CC=CC=C1)/C=C/[C@H]1C[C@@H](CC(O1)=O)O | C20H18Cl2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Trans-6-[2-(2,4-Dichloro-6-phenylmethoxyphenyl)ethyl]-3,4,5,6-tetrahydro-4-hydroxy-2H-pyran-2-one | ClC1=C(C(=CC(=C1)Cl)OCC1=CC=CC=C1)CC[C@H]1C[C@@H](CC(O1)=O)O | C20H20Cl2O4
